US06686364B2
In a manner similar to preparation 6, reaction of 3-(3,5,6-trifluoro-4-methylpyridin-2-yl)benzonitrile (1.1 g, 4.4 mmol), 5-dimethylamino-2-methylphenol (0.66 g, 4.4 mmol), and cesium carbonate (1.7 g, 5.2 mmol) in acetonitrile (10 mL) gave 3-[(3,5-difluoro-6-(5-dimethylamino-2-methylphenoxy)-4-methylpyridin-2-yl)oxy-benzonitrile; NMR (CDCl3) 7.3 (m,4), 7.0 (d,1), 6.5 (d,1), 6.3 (s,1), 2.8 (s,6), 2.4 (s,3), 2.0 (s,3) ppm.

reactant | 3-(3,5,6-trifluoro-4-methylpyridin-2-yl)benzonitrile | 4.4 mmol, 1.1 g | FC=1C(=NC(=C(C1C)F)F)C=1C=C(C#N)C=CC1 | C13H7F3N2
reactant | 5-dimethylamino-2-methylphenol | 4.4 mmol, 0.66 g | CN(C=1C=CC(=C(C1)O)C)C | C9H13NO
reactant | cesium carbonate | 5.2 mmol, 1.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | (3,5-difluoro-6-(5-dimethylamino-2-methylphenoxy)-4-methylpyridin-2-yl)oxy-benzonitrile | FC=1C(=NC(=C(C1C)F)OC1=C(C=CC(=C1)N(C)C)C)OC1=C(C#N)C=CC=C1 | C22H19F2N3O2
